US08053438B2
N-(4-(3-MORPHOLINOPYRAZIN-2-YLOXY)PHENYL)-1H-BENZO[D]IMIDAZOL-2-AMINE
N-(4-(3-chloropyrazin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine (191 mg, 565 μmol) and morpholine (74 μL, 848 μmol) in DMSO was heated to 80° C. After 3 h, starting material remained so additional morpholine (74 uL, 848 umol) was added and the mixture was heated overnight. The hot solution was then poured onto ice water which caused a brown solid to precipitate. The solid was collected by filtration, washed and dried to give the desired product. MS (ESI, pos. ion) m/z: 389.1 (M+1). IC50 (uM) +++++.

reactant | N-(4-(3-chloropyrazin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | 565 μmol, 191 mg | ClC=1C(=NC=CN1)OC1=CC=C(C=C1)NC1=NC2=C(N1)C=CC=C2 | C17H12ClN5O
reactant | morpholine | 848 μmol, 74 μL | N1CCOCC1 | C4H9NO
reactant | morpholine | 848 umol, 74 uL | N1CCOCC1 | C4H9NO
solvent | DMSO | CS(=O)C | C2H6OS
product | N-(4-(3-MORPHOLINOPYRAZIN-2-YLOXY)PHENYL)-1H-BENZO[D]IMIDAZOL-2-AMINE | O1CCN(CC1)C=1C(=NC=CN1)OC1=CC=C(C=C1)NC1=NC2=C(N1)C=CC=C2 | C21H20N6O2
